US07449457B2
Preparation of 5-Chloro-2-(6-phenylpyridin-3-ylcarbonyl-amino)-N-(5-chloropyridin-2-yl)benzamide
To a solution of 5-chloro-2-(6-chloropyridin-3-yl-carbonylamino)-N-(5-chloropyridin-2-yl)benzamide (Intermediate E-2, 0.42167 g, 1 mmol) in 10 mL of DME was added phenyl boronic acid (0.134 g, 1.1 mmol) and an aqueous solution of potassium phosphate (0.6 mL, 1 molar solution). The reaction mixture was degassed and tetrakistriphenyl-phosphine palladium (60 mg) was added. The mixture was heated at 80° C. overnight, cooled to room temperature, diluted with ethyl acetate (50 mL), washed with water, saturated sodium bicarbonate, and dried over anhydrous magnesium sulfate. After evaporation of the solvent, the crude product was purified by RPHPLC [ethyl acetate/hexane (3:7)]. Yield=0.280 g.

reactant | 5-chloro-2-(6-chloropyridin-3-yl-carbonylamino)-N-(5-chloropyridin-2-yl)benzamide | 1 mmol, 0.42167 g | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C=1C=NC(=CC1)Cl | C18H11Cl3N4O2
reactant | phenyl boronic acid | 1.1 mmol, 0.134 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphate | 1 molar, 0.6 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DME | 10 mL | COCCOC | C4H10O2
product | 5-Chloro-2-(6-phenylpyridin-3-ylcarbonyl-amino)-N-(5-chloropyridin-2-yl)benzamide | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C=1C=NC(=CC1)C1=CC=CC=C1 | C24H16Cl2N4O2
